US07067530B2
Under an atmosphere of nitrogen a 1M solution of DIBAL-H in toluene (82 ml, 82 mmol) was added dropwise at −70° C. over 20 min. to a stirred solution of (E)-3-quinolin-2-yl-acrylic acid ethyl ester (12.5 g, 55 mmol) in dry THF (400 ml) and the mixture stirred for 3 h. Methanol (100 ml) was added, and the mixture was concentrated in vacuo. The residue was dissolved in 1N HCl (500 mL) and ethyl acetate (100 mL). The aqueous phase was separated and added 1 N NaOH to pH 8. The product was extracted with dichloromethane. The combined organic phases were washed with water, dried (MgSO4), filtered and concentrated in vacuo. The residue was dissolved in ethyl acetate, treated with activated charcoal, filtered, and concentrated in vacuo yielding 5.6 g (56%) of (E)-3-quinolin-2-yl-prop-2-en-1-ol.

reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | toluene | 82 mmol, 82 ml | C1(=CC=CC=C1)C | C7H8
reactant | (E)-3-quinolin-2-yl-acrylic acid ethyl ester | 55 mmol, 12.5 g | C(C)OC(\C=C\C1=NC2=CC=CC=C2C=C1)=O | C14H13NO2
reactant | Methanol | 100 ml | CO | CH4O
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | (E)-3-quinolin-2-yl-prop-2-en-1-ol | 5.6 g, 56% | N1=C(C=CC2=CC=CC=C12)/C=C/CO | C12H11NO
